US07943628B2
Preparation 14: tert-Butyl (4aR*,7aR*)-6-(2-amino-6-chloropyrimidin-4-yl)octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate
To a solution of racemic tert-butyl (4aR*,7aR*)-octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate (460 mg, 2.03 mmol) in EtOH (1 mL) containing DIPEA (590 μL, 3.39 mmol) was added a solution of 2-amino-4,6-dichloropyrimidine (277 mg, 169 mmol) in EtOH (9 mL) with stirring and the solution was heated to reflux for 24 hours. The solution was cooled and diluted with water (10 mL) and the resulting solid was collected by filtration, washed with water (20 mL) and dried in vacuo at 60° C. to yield the title compound as a white solid (558 mg, 93%).

reactant | racemic tert-butyl (4aR*,7aR*)-octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate | 2.03 mmol, 460 mg | N1([C@@H]2[C@H](CCC1)CNC2)C(=O)OC(C)(C)C | C12H22N2O2
reactant | DIPEA | 3.39 mmol, 590 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-4,6-dichloropyrimidine | 169 mmol, 277 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | EtOH | 9 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
product | tert-Butyl (4aR*,7aR*)-6-(2-amino-6-chloropyrimidin-4-yl)octahydro-1H-pyrrolo[3,4-b]pyridine-1-carboxylate | 558 mg, 93% | NC1=NC(=CC(=N1)N1C[C@@H]2N(CCC[C@@H]2C1)C(=O)OC(C)(C)C)Cl | C16H24ClN5O2
